US07989449B2
[3-Bromo-5-(2-methoxy-ethyl)-phenyl]-(4-methoxy-3-methyl-phenyl)-methanone
In analogy to the procedure described for the preparation of the Building Block AU, the reaction of 4,N-dimethoxy-3,N-dimethyl-benzamide, beforehand prepared by a standard condensation of 4-methoxy-3-methyl-benzoic acid and N,O-dimethylhydroxylamine hydrochloride, and 1,3-dibromo-5-(2-methoxy-ethyl)-benzene, beforehand reacted with n-butyl lithium, yielded the title compound as a colourless oil (yield: 53% of theory). Mass (calculated) C18H19BrO3 [362]; (found) [M+H]+=363, 365.

reactant | 4,N-dimethoxy-3,N-dimethyl-benzamide | COC1=C(C=C(C(=O)N(C)OC)C=C1)C | C11H15NO3
reactant | 4-methoxy-3-methyl-benzoic acid | COC1=C(C=C(C(=O)O)C=C1)C | C9H10O3
reactant | N,O-dimethylhydroxylamine hydrochloride | Cl.CNOC
reactant | 1,3-dibromo-5-(2-methoxy-ethyl)-benzene | BrC1=CC(=CC(=C1)CCOC)Br | C9H10Br2O
reactant | n-butyl lithium | C(CCC)[Li]
product | [3-Bromo-5-(2-methoxy-ethyl)-phenyl]-(4-methoxy-3-methyl-phenyl)-methanone | yield: 53% | BrC=1C=C(C=C(C1)CCOC)C(=O)C1=CC(=C(C=C1)OC)C | C18H19BrO3
